US07381749B2
Pyridine-2-carbothioic acid S-{2-oxo-2-[4-(4-trifluoromethoxy-benzenesulfonylamino)-phenyl]-ethyl}ester
Picolinic acid (0.25 g, 2.04 mmol) was dissolved in anhydrous, degassed DCM (5 ml), HATU (775 mg, 2.04 mmol) was added followed by DIEA (0.53 g, 4.1 mmol). The mixture was stirred for 20 min and N-[4-(2-Mercapto-acetyl)-phenyl]-4-trifluoromethoxy-benzenesulfonamide SII-4 (0.725 g, 1.85 mmol) was added in 5 ml anhydrous, degassed DCM and the mixture was stirred for 16 hours. The reaction was filtered and the solvent evaporated. The product was purified by flash chromatography (1:1 EtOAc:hexanes) to afford 125 mg (0.25 mmol, 14%) product as a white solid. 1H-NMR: (400 MHz, DMSO): 11.12 (s, 1H), 8.89 (d, 1H), 8.03 (t, 1H), 8.01 (d, 2H), 8.00 (d, 2H), 7.90 (d, 1H), 7.78 (t, 1H), 7.60 (d, 2H), 7.14 (d, 2H), 4.60 (s, 2H); LC-MS (ES+): 497 [MH]+ m/e.

reactant | Picolinic acid | 2.04 mmol, 0.25 g | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | HATU | 2.04 mmol, 775 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 4.1 mmol, 0.53 g | CCN(C(C)C)C(C)C | C8H19N
reactant | N-[4-(2-Mercapto-acetyl)-phenyl]-4-trifluoromethoxy-benzenesulfonamide | SCC(=O)C1=CC=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)OC(F)(F)F | C15H12F3NO4S2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | Pyridine-2-carbothioic acid S-{2-oxo-2-[4-(4-trifluoromethoxy-benzenesulfonylamino)-phenyl]-ethyl}ester | 0.25 mmol, 125 mg, 14% | O=C(CSC(=O)C1=NC=CC=C1)C1=CC=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)OC(F)(F)F | C21H15F3N2O5S2
